US04985444
A concentrated hydrochloric acid (5 ml) was added to 3-(3-methoxypyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.50 g) and refluxed for 2 hours and 30 minutes. After cooling, to the reaction mixture was added water (10 ml). The precipitates were collected by filtration to give 3-(3-oxo-2,3-dihydropyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.41 g).

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | 3-(3-methoxypyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.50 g | COC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H14N4O
solvent | water | 10 ml | O | H2O
product | 3-(3-oxo-2,3-dihydropyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.41 g | O=C1NN=CC=C1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
